US04271163
1.0 g (3.8 millimoles) of cis-2-(p-propionylaminobenzoyl)-cyclopropanecarboxylic acid, 0.22 g (4.4 millimoles) of hydrazine hydrate and 20 ml of ethanol are refluxed for 5 hours. After filtering off the product at 25° C. and drying it under reduced pressure at 50° C., 0.8 g (81% of theory) of 2-(p-propionylaminophenyl)-3,4-diaza-bicyclo[4.1.0]hept-2-en-5-one are obtained as almost colorless crystals, of melting point 268°-270° C.

reactant | cis-2-(p-propionylaminobenzoyl)-cyclopropanecarboxylic acid | 3.8 millimoles, 1.0 g | C(CC)(=O)NC1=CC=C(C(=O)[C@@H]2[C@@H](C2)C(=O)O)C=C1 | C14H15NO4
reactant | hydrazine hydrate | 4.4 millimoles, 0.22 g | O.NN
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-(p-propionylaminophenyl)-3,4-diaza-bicyclo[4.1.0]hept-2-en-5-one | 0.8 g, 81% | C(CC)(=O)NC1=CC=C(C=C1)C=1C2CC2C(NN1)=O | C14H15N3O2
